US06521754B2
5-Methyl-thiophene-2-carboxylic acid [7-(4-acetyl-piperazin-1-yl)-4-methoxy-benzothiazol-2-yl]-amide
5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-piperazin-1-yl-benzothiazol-2-yl)-amide (100 mg, 0.26 mmol) were suspended in DMF (2 ml) and treated with acetyl chloride (22 μl, 0.30 mmol) and pyridine (27 μl, 0.34 mmol) and the mixture stirred for 5 h at ambient temperature. Workup and purification as described in the general procedure C afforded the product as a white solid (55%), MS: m/e=43 1(M+H+).

reactant | 5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-piperazin-1-yl-benzothiazol-2-yl)-amide | 0.26 mmol, 100 mg | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)N2CCNCC2 | C18H20N4O2S2
reactant | acetyl chloride | 0.30 mmol, 22 μl | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.34 mmol, 27 μl | N1=CC=CC=C1 | C5H5N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-Methyl-thiophene-2-carboxylic acid [7-(4-acetyl-piperazin-1-yl)-4-methoxy-benzothiazol-2-yl]-amide | 55% | C(C)(=O)N1CCN(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C20H22N4O3S2
